US07902191B2
(6-Butylamino-5,6,7,8-tetrahydro-naphthalen-2-yl)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone is prepared from (6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-butyl-amine and (S)-(+)-1-(2-pyrrolidinylmethyl)-pyrrolidine in a manner substantially analogous to Procedure A. (See herein Example 1). Starting material, (6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-butyl-amine, was prepared from 6-bromo-2-tetralone and n-butylamine in a manner substantially analogous to Preparation 1. Mass spectrum (APCI) 384 (M++1).

reactant | (6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-butyl-amine | BrC=1C=C2CCC(CC2=CC1)NCCCC | C14H20BrN
reactant | (S)-(+)-1-(2-pyrrolidinylmethyl)-pyrrolidine | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
reactant | 6-bromo-2-tetralone | BrC=1C=C2CCC(CC2=CC1)=O | C10H9BrO
reactant | n-butylamine | C(CCC)N | C4H11N
product | (6-Butylamino-5,6,7,8-tetrahydro-naphthalen-2-yl)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | C(CCC)NC1CC=2C=CC(=CC2CC1)C(=O)N1C(CCC1)CN1CCCC1 | C24H37N3O
